### PR TITLE
[Merged by Bors] - feat: ContinuousLinearMap.pi as a continuous linear equivalence

### PR DESCRIPTION
**Pull request by ADedecker**
---

- [x] depends on: #37614 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/Spaces/CompactConvergenceCLM.lean [hunk 1]
```diff
@@ -134,4 +134,35 @@ alias postcomp_compactConvergenceCLM_apply := postcompCompactConvergenceCLM_appl
...
+
+open scoped CompactConvergenceCLM
+
+variable [TopologicalSpace E] {ι : Type*} (F : ι → Type*)
+  [∀ i, AddCommGroup (F i)] [∀ i, Module 𝕜₁ (F i)] [∀ i, TopologicalSpace (F i)]
+  [∀ i, IsTopologicalAddGroup (F i)] [∀ i, ContinuousConstSMul 𝕜₁ (F i)]
+
+variable (𝕜₁ E) in
+/-- `ContinuousLinearMap.pi`, upgraded to a continuous linear equivalence between
+`Π i, E →L[𝕜] F i` and `E →L[𝕜] Π i, F i`. -/
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/Spaces/CompactConvergenceCLM.lean]:
```suggestion
`Π i, E →L_c[𝕜] F i` and `E →L_c[𝕜] Π i, F i`. -/
```

File: Mathlib/Topology/Algebra/Module/Spaces/CompactConvergenceCLM.lean [hunk 2]
```diff
@@ -134,4 +134,35 @@ alias postcomp_compactConvergenceCLM_apply := postcompCompactConvergenceCLM_appl
...
+lemma CompactConvergenceCLM.piEquivL_apply
+    (T : Π i, E →L_c[𝕜₁] F i) (e : E) (i : ι) :
+    piEquivL 𝕜₁ E F T e i = T i e :=
+  rfl
+
+@[simp]
+lemma CompactConvergenceCLM.piEquivL_symm_apply
+    (T : E →L_c[𝕜₁] Π i, F i) (e : E) (i : ι) :
+    (piEquivL 𝕜₁ E F).symm T i e = T e i :=
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/Spaces/CompactConvergenceCLM.lean:164]: Can `simps` not generate these for you? If not, why not?

File: Mathlib/Topology/Algebra/Module/Spaces/PointwiseConvergenceCLM.lean [hunk 3]
```diff
@@ -165,4 +165,29 @@ def equivWeakDual : (E →Lₚₜ[𝕜] 𝕜) ≃L[𝕜] WeakDual 𝕜 E where
...
+  invFun f i := (ContinuousLinearMap.proj i).comp f
+  __ := UniformConvergenceCLM.piEquivL _ _ _
+
+@[simp]
+lemma piEquivL_apply (T : Π i, E →Lₚₜ[𝕜] F i) (e : E) (i : ι) :
+    piEquivL 𝕜 E F T e i = T i e := rfl
+
+@[simp]
+lemma piEquivL_symm_apply (T : E →Lₚₜ[𝕜] Π i, F i) (e : E) (i : ι) :
+    (piEquivL 𝕜 E F).symm T i e = T e i := rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/Spaces/PointwiseConvergenceCLM.lean:189]: Same question about `simps`.

File: Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean [hunk 4]
```diff
@@ -503,3 +503,48 @@ alias postcomp_uniformConvergenceCLM := postcompUniformConvergenceCLM
...
+lemma UniformConvergenceCLM.piEquivL_apply (𝔖 : Set (Set E))
+    (T : Π i, E →Lᵤ[𝕜, 𝔖] F i) (e : E) (i : ι) :
+    piEquivL 𝕜 F 𝔖 T e i = T i e :=
+  rfl
+
+@[simp]
+lemma UniformConvergenceCLM.piEquivL_symm_apply (𝔖 : Set (Set E))
+    (T : E →Lᵤ[𝕜, 𝔖] Π i, F i) (e : E) (i : ι) :
+    (piEquivL 𝕜 F 𝔖).symm T i e = T e i :=
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean:548]: ditto

**Review by j-loreaux — COMMENTED** [review]
Other than the question about `simps`, this looks fine to me.

File: Mathlib/Topology/Algebra/Module/Spaces/CompactConvergenceCLM.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/Spaces/CompactConvergenceCLM.lean:164]: The issue is that the `simps` generated lemma are either
- the `apply` version, which is applied only once and exposes a `ContinuousLinearMap.pi`, thus breaking the API boundary. In particular, `simp` then fails to apply [ContinuousLinearMap.pi_apply](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Module/LinearMapPiProd.html#ContinuousLinearMap.pi_apply)
- the `apply_apply` version, which is what we want, but the name is not ideal.

In particular, note that `piEquivL_apply` does not state the same thing for `CompactConvergenceCLM` and `ContinuousLinearMap`.

The only proper solution to this, I think, is to strengthen the API boundary and teach `simp` about it. I've had some thoughts about it, but no time to implement them...

Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/Spaces/CompactConvergenceCLM.lean:164]: In fact the `apply_apply` version is bad as well because it's written in terms of the `FunLike` instance on `ContinuousLinearMap` instead of that of `CompactConvergenceCLM`

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
